### PR TITLE
[Merged by Bors] - feat(ENNReal): liminf/limsup/iInf/iSup and multiplication

### PR DESCRIPTION
**Pull request by D-Thomine**
This PR adds a few lemmas about multiplication and liminf/limsup/iInf/iSup: `mul_iInf_le_iInf_mul`, `iSup_mul_le_mul_iSup`, `mul_liminf_le_liminf_mul` and three avatars of the latter.

The strategy adopted is the same as for similar lemmas in EReal (`EReal.add_iInf_le_iInf_add`...): we suffer to prove the key result `mul_le_of_forall_mul_le`, and everything is deduced from there.

Note that `ENNReal.mul_le_of_forall_mul_le` could be deduced much faster from `EReal.add_le_of_forall_add_le` using the exp (both as an order isomorphism and as a "group" morphism). However, I wanted to avoid importing special functions, which unfortunately leads to a much longer and painful proof.

This also generalizes some lemmas in #15373 : `limsup_mul_le'` therein can be replaced by `limsup_mul_le_mul_limsup` with some easy plug-and-play; if `_root_.Real.limsup_mul_le` is still needed, I can write another PR to deal with it (most of the work is already done anyways -- I think I can prove `mul_le_of_forall_mul_le` in NNReal, and leverage it to simplify the proof in ENNReal).

---

Paging @mariainesdff (for #15373).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENNReal/Inv.lean [hunk 1]
```diff
@@ -731,6 +801,27 @@ lemma inv_iSup (f : ι → ℝ≥0∞) : (⨆ i, f i)⁻¹ = ⨅ i, (f i)⁻¹ :
...
 
+lemma mul_iInf_le_iInf_mul {ι : Type*} (u v : ι → ℝ≥0∞) :
+    (⨅ x, u x) * (⨅ x, v x) ≤ ⨅ x, (u * v) x := by
+  refine mul_le_of_forall_mul_le fun a a_u b b_v ↦ ?_
+  rw [lt_iInf_iff] at a_u b_v
+  rcases a_u with ⟨c, a_c, c_u⟩
+  rcases b_v with ⟨d, b_d, d_v⟩
+  simp only [Pi.add_apply, le_iInf_iff]
+  exact fun x ↦ mul_le_mul (a_c.trans_le (c_u x)).le (b_d.trans_le (d_v x)).le (zero_le b)
+    (zero_le u x)
```
Comment (YaelDillies) [inline Mathlib/Data/ENNReal/Inv.lean:812]: This proof looks way too complicated
```suggestion
lemma iInf_mul_iInf_le {ι : Type*} (u v : ι → ℝ≥0∞) :
    (⨅ i, u i) * ⨅ i, v i ≤ ⨅ i, u i * v i := iInf_le fun i ↦ mul_le_mul' (le_iInf _) (le_iInf _) 
```
In fact, you could have figured it out from the proof of `iInf_mul_iInf`

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 2]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
   (Antitone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
     (fun _ _ h ↦ tsub_le_tsub_left h c) (continuous_sub_left c_ne_top).continuousAt).symm
 
+lemma mul_liminf_le_liminf_mul {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞} :
+    (liminf u f) * (liminf v f) ≤ liminf (u * v) f := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1365]:
```suggestion
    liminf u f * liminf v f ≤ liminf (u * v) f := by
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 3]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
+  refine mul_le_of_forall_mul_le fun a a_u b b_v ↦ (le_liminf_iff).2 fun c c_ab ↦ ?_
+  filter_upwards [eventually_lt_of_lt_liminf a_u, eventually_lt_of_lt_liminf b_v] with x a_x b_x
+  exact c_ab.trans (mul_lt_mul a_x b_x)
+
+lemma limsup_mul_le_mul_limsup {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
+    (h : limsup u f ≠ 0 ∨ limsup v f ≠ ∞) (h' : limsup u f ≠ ∞ ∨ limsup v f ≠ 0) :
+    limsup (u * v) f ≤ (limsup u f) * (limsup v f) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1372]: Same here and below

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 4]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
+  mul_le_of_forall_mul_le fun a a_u b b_v ↦ (le_limsup_iff).2 fun c c_ab ↦
+    Frequently.mono (Frequently.and_eventually ((frequently_lt_of_lt_limsup) a_u)
+    ((eventually_lt_of_lt_liminf) b_v)) fun _ ab_x ↦ c_ab.trans (mul_lt_mul ab_x.1 ab_x.2)
+
+lemma liminf_mul_le_limsup_mul_liminf {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
+    (h : limsup u f ≠ 0 ∨ liminf v f ≠ ∞) (h' : limsup u f ≠ ∞ ∨ liminf v f ≠ 0) :
+    liminf (u * v) f ≤ (limsup u f) * (liminf v f) :=
+  le_mul_of_forall_le_mul h h' fun a a_u b b_v ↦ (liminf_le_iff).2 fun c c_ab ↦
+    Frequently.mono (Frequently.and_eventually ((frequently_lt_of_liminf_lt) b_v)
+    ((eventually_lt_of_limsup_lt) a_u)) fun _ ab_x ↦ (mul_lt_mul ab_x.2 ab_x.1).trans c_ab
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1388]: This one looks too complicated as well. Can you try starting the proof with 
```suggestion
    liminf (u * v) f ≤ (limsup u f) * (liminf v f) :=
  sSup_le fun i hi ↦ _
```

Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean:1388]: I don't see how to make it work. What do you have in mind after that?

The problem is that I get something like ` ∀ᶠ (a : α) in f, x ≤ u a * v a`, but then, you need to "split" `u a` and `v a` into a limsup and a liminf. Note also that the two hypotheses `h` and `h'` are necessary here.

File: Mathlib/Data/ENNReal/Inv.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Data/ENNReal/Inv.lean]: Well, if that isn't an oversight... thanks for noticing that.

I've kept the name of the lemma (I didn't see other simplifications, and I like the symmetry `iInf_mul_le_mul_iInf `/`iSup_mul_le_mul_iSup`), but if you think it's better, I will implement your version.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Topology/Instances/ENNReal.lean]: Damn I need to think 😅 

Will sleep over it, and hopefully tomorrow comes with an idea

Comment (YaelDillies) [reply Mathlib/Topology/Instances/ENNReal.lean]: I had no time until now. Will look into it

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 5]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
   (Antitone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
     (fun _ _ h ↦ tsub_le_tsub_left h c) (continuous_sub_left c_ne_top).continuousAt).symm
 
+lemma mul_liminf_le_liminf_mul {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞} :
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1364]:
```suggestion
lemma le_liminf_mul {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞} :
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 6]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
+    liminf u f * liminf v f ≤ liminf (u * v) f := by
+  refine mul_le_of_forall_lt fun a a_u b b_v ↦ (le_liminf_iff).2 fun c c_ab ↦ ?_
+  filter_upwards [eventually_lt_of_lt_liminf a_u, eventually_lt_of_lt_liminf b_v] with x a_x b_x
+  exact c_ab.trans (mul_lt_mul a_x b_x)
+
+lemma limsup_mul_le_mul_limsup {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1370]:
```suggestion
lemma limsup_mul_le {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 7]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
+    (h : limsup u f ≠ 0 ∨ limsup v f ≠ ∞) (h' : limsup u f ≠ ∞ ∨ limsup v f ≠ 0) :
+    limsup (u * v) f ≤ limsup u f * limsup v f := by
+  refine le_mul_of_forall_lt h h' fun a a_u b b_v ↦ (limsup_le_iff).2 fun c c_ab ↦ ?_
+  filter_upwards [eventually_lt_of_limsup_lt a_u, eventually_lt_of_limsup_lt b_v] with x a_x b_x
+  exact (mul_lt_mul a_x b_x).trans c_ab
+
+lemma limsup_mul_liminf_le_limsup_mul {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞} :
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1377]:
```suggestion
lemma le_limsup_mul {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞} :
```

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 8]
```diff
@@ -1361,6 +1361,32 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
...
+    limsup u f * liminf v f ≤ limsup (u * v) f :=
+  mul_le_of_forall_lt fun a a_u b b_v ↦ (le_limsup_iff).2 fun c c_ab ↦
+    Frequently.mono (Frequently.and_eventually ((frequently_lt_of_lt_limsup) a_u)
+    ((eventually_lt_of_lt_liminf) b_v)) fun _ ab_x ↦ c_ab.trans (mul_lt_mul ab_x.1 ab_x.2)
+
+lemma liminf_mul_le_limsup_mul_liminf {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1383]:
```suggestion
lemma liminf_mul_le {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
```

**Review by YaelDillies — COMMENTED** [review]
I could shave 49 lines off. If you are happy with the changes, then LGTM.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 5 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 7 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 8 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

**Comment by D-Thomine** [comment]
@YaelDillies : I am more than happy with your changes ; you did an excellent job!

I've got a few ideas to improve this aspect of mathlib, but I'll write a separate PR for that -- it'll be much easier with this part done.

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean:1371]: Impossible, there's already a lemma called ENNREal.limsup_mul_le in Mathlib.Order.Filter.ENNReal. I've kept the initial name, and added a comment to explain that conflict.

Comment (YaelDillies) [reply Mathlib/Topology/Instances/ENNReal.lean:1371]: Given that the existing `ENNReal.limsup_mul_le` is the same statement under different assumptions, you should call this
```suggestion
lemma limsup_mul_le' {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞}
```

File: Mathlib/Data/ENNReal/Inv.lean [hunk 9]
```diff
@@ -731,6 +752,14 @@ lemma inv_iSup (f : ι → ℝ≥0∞) : (⨆ i, f i)⁻¹ = ⨅ i, (f i)⁻¹ :
 lemma inv_sInf (s : Set ℝ≥0∞) : (sInf s)⁻¹ = ⨆ a ∈ s, a⁻¹ := by simp [sInf_eq_iInf, inv_iInf]
 lemma inv_sSup (s : Set ℝ≥0∞) : (sSup s)⁻¹ = ⨅ a ∈ s, a⁻¹ := by simp [sSup_eq_iSup, inv_iSup]
 
+lemma iInf_mul_le_mul_iInf {ι : Type*} (u v : ι → ℝ≥0∞) :
```
Comment (YaelDillies) [inline Mathlib/Data/ENNReal/Inv.lean:755]:
```suggestion
lemma le_iInf_mul {ι : Type*} (u v : ι → ℝ≥0∞) :
```

File: Mathlib/Data/ENNReal/Inv.lean [hunk 10]
```diff
@@ -731,6 +752,14 @@ lemma inv_iSup (f : ι → ℝ≥0∞) : (⨆ i, f i)⁻¹ = ⨅ i, (f i)⁻¹ :
...
+    (⨅ i, u i) * ⨅ i, v i ≤ ⨅ i, u i * v i :=
+  le_iInf fun i ↦ mul_le_mul' (iInf_le u i) (iInf_le v i)
+
+lemma iSup_mul_le_mul_iSup {ι : Type*} {u v : ι → ℝ≥0∞} :
```
Comment (YaelDillies) [inline Mathlib/Data/ENNReal/Inv.lean:759]:
```suggestion
lemma iSup_mul_le {ι : Type*} {u v : ι → ℝ≥0∞} :
```

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 6 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

File: Mathlib/Data/ENNReal/Inv.lean (hunk 9 above)
Comment (D-Thomine) [reply Mathlib/Data/ENNReal/Inv.lean]: Done.

File: Mathlib/Data/ENNReal/Inv.lean (hunk 10 above)
Comment (D-Thomine) [reply Mathlib/Data/ENNReal/Inv.lean]: Done.

File: Mathlib/Topology/Instances/ENNReal.lean [hunk 11]
```diff
@@ -1361,6 +1361,33 @@ lemma liminf_const_sub (F : Filter ι) [NeBot F] (f : ι → ℝ≥0∞) {c : 
   (Antitone.map_limsSup_of_continuousAt (F := F.map f) (f := fun (x : ℝ≥0∞) ↦ c - x)
     (fun _ _ h ↦ tsub_le_tsub_left h c) (continuous_sub_left c_ne_top).continuousAt).symm
 
+lemma le_limsup_mul {α : Type*} {f : Filter α} {u v : α → ℝ≥0∞} :
+    limsup u f * liminf v f ≤ limsup (u * v) f :=
+  mul_le_of_forall_lt fun a a_u b b_v ↦ (le_limsup_iff).2 fun c c_ab ↦
+    Frequently.mono (Frequently.and_eventually ((frequently_lt_of_lt_limsup) a_u)
+    ((eventually_lt_of_lt_liminf) b_v)) fun _ ab_x ↦ c_ab.trans (mul_lt_mul ab_x.1 ab_x.2)
+
+/-- There is another lemma called `ENNReal.limsup_mul_le` in `Mathlib.Order.Filter.ENNReal`-/
```
Comment (YaelDillies) [inline Mathlib/Topology/Instances/ENNReal.lean:1370]:
```suggestion
/-- See also `ENNReal.limsup_mul_le`. -/
```
and it would be good to add the reverse docstring to `ENNReal.limsup_mul_le`.

**Review by YaelDillies — APPROVED** [review]
maintainer merge

File: Mathlib/Topology/Instances/ENNReal.lean (hunk 11 above)
Comment (D-Thomine) [reply Mathlib/Topology/Instances/ENNReal.lean]: Done.

**Comment by sgouezel** [comment]
bors r+
Thanks!
